US05756750
As to preparative methods for these compounds, cyanopyridines have frequently been hydrolyzed in batch and continuous processes with catalytic to stoichiometric excesses of a base. A majority of the methods reported have been batch processes. For example, 4-cyanopyridine in the presence of sodium hydroxide at a molar ratio of 1:(0.03-0.075) and at 120°-170° C. is reported to give isonicotinamide. See U.S.S.R. SU 1,553,531 (1990); CA:113:78174f (1990). Similarly, 2-cyanopyridine is reported to react with sodium hydroxide at a molar ratio of 1:(0.03-0.20) and at temperatures ranging from 100°-130° C. to give 2-picolinamide. See U.S.S.R. SU 1,553,530 (1990); CA:113:78173e (1990). With a molar ratio of 4-cyanopyridine:sodium hydroxide of 1:(1.5-1.75) and a hydrolysis temperature of 50°-80° C., the reported hydrolysis product was isonicotinic acid. See U.S.S.R. SU 1,288,183; CA:106:176187n (1987). The hydrolysis of 3-cyanopyridine with excess ammonia at 107°-109° C. for 12 hours was reported to give mixtures of nicotinamide and niacin. See J. Am Chem. Soc. 65, at pages 2256-7 (1943). In still another variation, the hydrolysis of 3-cyanopyridine has been reported with a polymeric base, Dowex 1X4 (in the hydroxide form), to yield nicotinamide. See Dutch Patent Application No. 7706612-A; CA:90:186814e. U.S. Pat. No. 4,314,064 describes the continuous hydrolysis of 3-cyanopyridine with 0.3 to 3.0 moles of an alkali metal hydroxide for each 100 moles of cyanopyridine at pressures of between 3 to 20 bars and with heating or cooling to maintain the prescribed reaction temperature. Similarly, 3-cyanopyridine is reported to react in a continuous process with aqueous ammonia at a molar ratio of 1:0.5 and a contact time of 40-50 minutes at 200°-260° C. to give nicotinamide. See Journal of Applied Chemistry of the USSR (English Translation: 45:2716-2718 (1972).

reactant | 2-cyanopyridine | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-picolinamide | N1=C(C=CC=C1)C(=O)N | C6H6N2O
